US09169254B2
Sodium thiomethoxide (942 mg, 13.44 mmol) was added to a solution of 8-bromooctanoic acid (500 mg, 2.24 mmol) in methanol (5.6 mL), and the mixture was heated under reflux overnight. The reaction mixture was concentrated under reduced pressure, adjusted to pH 1 by adding 1 N hydrochloric acid and then extracted with ethyl acetate. The organic layer was washed with saturated brine, and then dried over MgSO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane:methanol=20:1) to give 8-(methylthio)octanoic acid as a colorless oily substance (426.5 mg, 100%).

reactant | Sodium thiomethoxide | 13.44 mmol, 942 mg | C[S-].[Na+]
reactant | 8-bromooctanoic acid | 2.24 mmol, 500 mg | BrCCCCCCCC(=O)O | C8H15BrO2
solvent | methanol | 5.6 mL | CO | CH4O
product | 8-(methylthio)octanoic acid | CSCCCCCCCC(=O)O | C9H18O2S
